US07232821B2
2-{2-[5-Chloro-2-(Benzyloxy)Phenyl]Cyclopent-1-Enyl}Pyrimidine-4-Carboxylic Acid Ethyl Ester
A mixture of 2-chloropyrimidine-4-carboxylic acid methyl ester (114 mg, 0.66 mmol), 2-(2-benzyloxy-5-chlorophenyl)cyclopentene-1-boronic acid (209 mg, 0.66 mmol), potassium carbonate (729 mg, 5.28 mmol) and tetrakis(triphenylphosphine)palladium(0) (76 mg, 0.066 mmol) was stirred and heated in 1:1 toluene/ethanol (6 ml) at 90° C. under nitrogen for 2 hours. After cooling the mixture was diluted with diethyl ether/water and the organic phase dried (magnesium sulphate), evaporated to dryness and the residue purified by chromatography on silica (12% ethyl acetate in iso-hexane) to yield the title compound as a colourless gum (109 mg, 38%). LC/MS: Rt 3.8 [MH+] 435.3, 437.3.

reactant | 2-chloropyrimidine-4-carboxylic acid methyl ester | 0.66 mmol, 114 mg | COC(=O)C1=NC(=NC=C1)Cl | C6H5ClN2O2
reactant | 2-(2-benzyloxy-5-chlorophenyl)cyclopentene-1-boronic acid | 0.66 mmol, 209 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)Cl)C1=C(CCC1)B(O)O | C18H18BClO3
reactant | potassium carbonate | 5.28 mmol, 729 mg | C([O-])([O-])=O.[K+].[K+]
reactant | toluene ethanol | 6 ml | C1(=CC=CC=C1)C.C(C)O
solvent | diethyl ether water | C(C)OCC.O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.066 mmol, 76 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-{2-[5-Chloro-2-(Benzyloxy)Phenyl]Cyclopent-1-Enyl}Pyrimidine-4-Carboxylic Acid Ethyl Ester | 109 mg, 38% | C(C)OC(=O)C1=NC(=NC=C1)C1=C(CCC1)C1=C(C=CC(=C1)Cl)OCC1=CC=CC=C1 | C25H23ClN2O3
